US06235355B1
To dried MTP 50.0 g (146 mmol), THF 500 ml was added, and potassium-t-butoxide 18.0 g (160 mmol) was added. The mixture was stirred for about one hour. To the reactant, a THF solution (100 ml) of 4-oxocyclohexane carboxylic acid methylester 21.9 g (140 mmol) was added dropwise, and the mixture was stirred for 2 hours. Water 500 ml was added to the reactant, the product was extracted with diethylether. The extract was washed with a sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent: toluene). Such resulting purified material was stirred in mixed solvent of 2N-hydrochloric acid 500 ml and acetone 500 ml for 5 hours at room temperature, and the product was extracted with toluene. The extract was washed with a saturated sodium bicarbonate aqueous solution and then with water, and dried over anhydrous magnesium sulfate. Toluene was distilled off to obtain 4-formylcyclohexane carboxylic acid methyl ester 18.8 g (111 mmol). The yield was 79.2% from 4-oxocyclohexane carboxylic acid methylester.

reactant | potassium-t-butoxide | 160 mmol, 18.0 g | CC(C)([O-])C.[K+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | 4-oxocyclohexane carboxylic acid methylester | 140 mmol, 21.9 g | COC(=O)C1CCC(CC1)=O | C8H12O3
solvent | Water | 500 ml | O | H2O
product | 4-formylcyclohexane carboxylic acid methyl ester | 111 mmol, 18.8 g, yield was 79.2% | COC(=O)C1CCC(CC1)C=O | C9H14O3
